US07691866B2
Step 1: Synthesis of N-methyl[4-(2-methylthioquinazolin-6-yloxy)(2-pyridyl)]carboxamide 14
The mixture of 2-chloro-6-methoxyquinazoline (1 eq) and sodiumthiomethoxide (2 eq) in ethanol (0.5 M) was refluxed for 3 hours. The reaction was cooled down to room temperature and evaporated. The mixture was taken in ethyl acetate and washed with water and brine, dried in sodium sulfate and concentrated. The resulting crude was treated with dry methylene chloride and ethane thiol (5 eq) was added to it at room temperature. Aluminium chloride (5 eq) was added carefully at 0° C. The reaction was warmed to room temperature and stirred vigorously over night. The reaction was diluted with methylene chloride and saturated Rochelles's salt solution was added and stirred for about 3 hours until 2 layers separated. The organic layer was separated, washed with Rochelle's salt solution (2×), followed by water and brine, dried and evaporated. The crude 2-methylthioquinazolin-6-ol (1 eq) was taken in DMF (0.5 M) and Potassiumbis(trimethylsilyl)amide (2 eq) was added and stirred for 10 min at room temperature. 4-chloro(2-pyridyl)-N-methylcarboxamide (1.1 eq) was added followed by potassium carbonate (1 eq) and stirred at 85-90° C. for 16 hours. The mixture was diluted with ethyl acetate, washed with water and brine, dried and evaporated. The crude was subjected to column chromatography (4:1 Hexanes in ethyl acetate followed by 2:1 and 1:1 Hexanes in ethyl acetate) to afford the product in 75-85% yield.

reactant | 2-chloro-6-methoxyquinazoline | 1 eq | ClC1=NC2=CC=C(C=C2C=N1)OC | C9H7ClN2O
reactant | sodiumthiomethoxide | 2 eq | C[S-].[Na+]
reactant | ethane thiol | 5 eq | C(C)S | C2H6S
reactant | Aluminium chloride | 5 eq | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-methylthioquinazolin-6-ol | 1 eq | CSC1=NC2=CC=C(C=C2C=N1)O | C9H8N2OS
reactant | Potassiumbis(trimethylsilyl)amide | 2 eq | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-chloro(2-pyridyl)-N-methylcarboxamide | 1.1 eq | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
reactant | potassium carbonate | 1 eq | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 0.5 M | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.5 M | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-methyl[4-(2-methylthioquinazolin-6-yloxy)(2-pyridyl)]carboxamide | 75-85% yield | CNC(=O)C1=NC=CC(=C1)OC=1C=C2C=NC(=NC2=CC1)SC | C16H14N4O2S
